US04245107
370 mg. of 2-pyridylsulfinylacetic acid and 7-amino-3-(1-oxopyridazine-3-ylthiomethyl)-3-cephem-4-carboxylic acid were reacted in the same manner as described in Example 28 and 341 mg. of 7-(2-pyridylsulfinylacetamido)-3-(1-oxopyridazine-3-ylthiomethyl)-3-cephem-4-carboxylic acid were obtained.

reactant | 2-pyridylsulfinylacetic acid | N1=C(C=CC=C1)S(=O)CC(=O)O | C7H7NO3S
reactant | 7-amino-3-(1-oxopyridazine-3-ylthiomethyl)-3-cephem-4-carboxylic acid | NC1[C@@H]2N(C(=C(CS2)C(=O)SC=2N=NC=CC2)C(=O)O)C1=O | C12H10N4O4S2
product | 7-(2-pyridylsulfinylacetamido)-3-(1-oxopyridazine-3-ylthiomethyl)-3-cephem-4-carboxylic acid | N1=C(C=CC=C1)S(=O)CC(=O)NC1[C@@H]2N(C(=C(CS2)C(=O)SC=2N=NC=CC2)C(=O)O)C1=O | C19H15N5O6S3
